US06716851B2
4-(5-Methoxy-2-methylanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (25 mg, 0.096 mmol) and 5-methoxy-2-methylaniline (20 mg, 0.144 mmol) similar to Example 92 and isolated as a yellow solid (18 mg, 52%). 1H NMR (CDCl3): 8.85-8.82 (m, 1H), 8.59-8.56 (m, 1H), 7.90-7.84 (m, 1H), 7.45-7.40 (m, 2H), 7.24 (d, J=8.1 Hz, 1H), 6.87 (s, 1H), 6.83 (dd, J=2.6, 8.3 Hz, 1H), 6.69 (s, 1H), 3.81 (s, 3H), 2.20 (s, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.096 mmol, 25 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 5-methoxy-2-methylaniline | 0.144 mmol, 20 mg | COC=1C=CC(=C(N)C1)C | C8H11NO
product | 4-(5-Methoxy-2-methylanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | COC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C1)C | C18H15F3N4O
